US04234477
(based on the test with Bz-Arg OEt of I. Trautschold and E. Werle, Hoppe-Seyler's Z. Physiol. Chem. 325 (1961) 48-59).
2.00 ml of buffer (0.15 M sodium pyrophosphate, 0.15 M semicarbazide hydrochloride, and 0.0375 M glycine; pH adjusted to 8.7 with sodium hydroxide solution), 0.10 ml of NAD (30 mM in water), 0.10 ml of Ac-Phe-Arg OEt (as the acetate; 15 mM in water) and 0.020 ml of ADH (alcohol dehydrogenase from yeast, Boehringer; suspension containing 100 mg/3.4 ml) are mixed in a cell of cell thickness 1 cm, thermostatically controlled at 25.0° C.

reactant | sodium pyrophosphate | 0.15 M | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | semicarbazide hydrochloride | 0.15 M | Cl.NNC(=O)N
reactant | glycine | 0.0375 M | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NAD | 30 mM, 0.10 ml | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | Ac-Phe-Arg OEt | 0.10 ml | CCOC(=O)[C@H](CCCN=C(N)N)NC(=O)[C@H](CC1=CC=CC=C1)NC(=O)C | C19H29N5O4
reactant | acetate | C(C)(=O)[O-]
solvent | water | O | H2O
product | Bz-Arg OEt | CCOC(=O)[C@@H](CCCN=C(N)N)NC(=O)C1=CC=CC=C1 | C15H22N4O3
